US04962103
Trans-4-Hydroxy-L-proline (6.55 g) and triethylamine (7.5 ml) were dissolved in 15 ml of water, and a solution of 15.95 g of S-p-nitrobenzyloxycarbonyl-4,6-dimethyl-2-mercaptopyrimidine in 35 ml of dioxane was dropwise added thereto. The resulting mixture was stirred at room temperature for 1.5 hours and allowed to stand overnight. To the reaction mixture was added 30 ml of 2N sodium hydroxide solution under ice-cooling, and the resultant mixture was shaken with diethyl ether. The aqueous layer was separated from the ethereal layer, the ethereal layer was washed with 20 ml of 1m hydroxide solution, and the washing was combined with the aqueous layer. The combined mixture was made acidic with 100 ml of 2N hydrochloric acid and extracted with ethyl acetate. The ethyl acetate extract was washed with 2N hydrochloric acid, dried over anhydrous sodium sulfate and distilled to remove the solvent. The resulting crude crystals were washed with ethyl acetate to obtain trans-1-(p-nitrobenzyloxycarbonyl)-4-hydroxy-L-proline. M.P., 134.3°-135.5° C.

reactant | Trans-4-Hydroxy-L-proline | 6.55 g | O[C@@H]1C[C@H](NC1)C(=O)O | C5H9NO3
reactant | triethylamine | 7.5 ml | C(C)N(CC)CC | C6H15N
reactant | S-p-nitrobenzyloxycarbonyl-4,6-dimethyl-2-mercaptopyrimidine | 15.95 g | [N+](=O)([O-])C1=CC=C(COC(=O)SC2=NC(=CC(=N2)C)C)C=C1 | C14H13N3O4S
reactant | sodium hydroxide | 2N, 30 ml | [OH-].[Na+]
solvent | water | 15 ml | O | H2O
solvent | dioxane | 35 ml | O1CCOCC1 | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | trans-1-(p-nitrobenzyloxycarbonyl)-4-hydroxy-L-proline | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@H](C(=O)O)C[C@H](C2)O)C=C1 | C13H14N2O7
